US06852727B2
Step D: 4-[2-tert-butyl-4-(4-fluorophenyl)-1H-imidazol-5-yl]pyridin-2(1H)-one
To a solution of 4-[2-tert-butyl-4-(4-fluorophenyl)-1-hydroxy-1H-imidazol-5-yl]pyridin-2(1H)-one (28 g, 0.086 mol) in methanol (1 L) at 0° C. under nitrogen was added TiCl3 (10% w/w in 20% w/w HCl, 450 ml) over 45 minutes while maintaining the reaction temperature under 10° C. The solution was warmed to RT and stirred overnight. The methanol was removed under reduced pressure and the solution was made basic with saturated NaHCO3 and 5 N NaOH. Ethyl acetate was added and it was stirred for 4 hours. The solution was filtered through a Solka floc pad to remove the solids. The filtrate was extracted with EtOAc and the organic layer was then washed twice with brine, dried over Na2SO4 and concentrated to dryness to yield crude product. It was purified by flash chromatography using CH2Cl2/2%-10% methanol as an eluant to yield the title compound as a mixture of imidazole tautomers.

reactant | 4-[2-tert-butyl-4-(4-fluorophenyl)-1-hydroxy-1H-imidazol-5-yl]pyridin-2(1H)-one | 0.086 mol, 28 g | C(C)(C)(C)C=1N(C(=C(N1)C1=CC=C(C=C1)F)C1=CC(NC=C1)=O)O | C18H18FN3O2
solvent | methanol | 1 L | CO | CH4O
product | 4-[2-tert-butyl-4-(4-fluorophenyl)-1H-imidazol-5-yl]pyridin-2(1H)-one | C(C)(C)(C)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC(NC=C1)=O | C18H18FN3O
